US07323465B2
Ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide (89 mg) was dissolved in THF (6 ml). Sodium hydride (40 mg) and 2-chloro-5-methylsulfanyl-pyrimidine (71 mg) were added and the mixture was heated to 75° C. for 48 h, then poured onto water, acidified with solid citric acid and the precipitate was filtered off. The crude material was purified by crystallization from methanol to give ethanesulfonic acid [6-[2-(5-methylsulfanyl-pyrimidin-2-yloxy)-ethoxy]-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide (58 mg) as a white powder. LC-MS: tR: 4.15, [M+H]+: 572.19.

reactant | Ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide | 89 mg | OCCOC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CC)OC1=C(C=CC=C1)OC | C19H21N5O6S
reactant | Sodium hydride | 40 mg | [H-].[Na+]
reactant | 2-chloro-5-methylsulfanyl-pyrimidine | 71 mg | ClC1=NC=C(C=N1)SC | C5H5ClN2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | ethanesulfonic acid [6-[2-(5-methylsulfanyl-pyrimidin-2-yloxy)-ethoxy]-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide | 58 mg | CSC=1C=NC(=NC1)OCCOC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CC)OC1=C(C=CC=C1)OC | C24H25N7O6S2
